US05082934
Preparation of 7-Hydroxymethylcoumarin
To a 1:1 mixture of acetone and water (560 ml) was added 7-bromomethy1coumarin (7.0 g, 29.3 mmol). The resulting suspension was refluxed for 48 hrs at which time the reaction mixture became a clear solution. The solution was then cooled and neutralized with sodium bicarbonate (2.4 g, 29.3 mmol) and concentrated in vacuo to about 65 ml. A thick mass of crystals resulted. The crystals were collected by filtration to yield 5.27 g of product after drying in vacuo (100% of theory). The melting point was 116°-117° C.

reactant | acetone | CC(=O)C | C3H6O
reactant | 7-bromomethy1coumarin | 29.3 mmol, 7.0 g | BrCC1=CC=C2C=CC(OC2=C1)=O | C10H7BrO2
reactant | sodium bicarbonate | 29.3 mmol, 2.4 g | C([O-])(O)=O.[Na+]
solvent | water | 560 ml | O | H2O
product | 7-Hydroxymethylcoumarin | 5.27 g | OCC1=CC=C2C=CC(OC2=C1)=O | C10H8O3
